OPAMS_ENCAPSULATION
*-----------------------------------------------------------------------------
*NOTES
*-----------------------------------------------------------------------------



*-----------------------------------------------------------------------------
*Parameters: User Input
*-----------------------------------------------------------------------------
*Inversor
.PARAM p_R1 	{5k}
.PARAM p_R2 	{10k}


*Integrator
.PARAM p_R3 	{10k}
.PARAM p_R4 	{1MEG}
.PARAM p_C1 	{1000pf}

*Non-inversor

.PARAM p_R5 	{5k}
.PARAM p_R6 	{10k}

*=============================================================================
* Calibration
*=============================================================================




*-----------------------------------------------------------------------------
*Libraries, Models and includes
*-----------------------------------------------------------------------------
.LIB OPAMP_BASIC_V.lib
.LIB OPAMP_BASIC_I.lib
.MODEL	SRES	VSWITCH(VON=0 VOFF=5 RON=100 ROFF=1MEG)
*-----------------------------------------------------------------------------
*CIRCUIT
*-----------------------------------------------------------------------------
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
* 		 OPAMP1	    1   2   7
* 		 OPAMP2	    8   9   3
* 		 OPAMP3	    4   5   10
* 		 OPAMP4	    11  12  6

* 					|OPAMP1 |	OPAMP2	|	OPAMP 3	|	OPAMP4	|
.SUBCKT OPAMP_ENCAP1	1	2 	7  	8	9	3	4	5	10	11	12	6

XOP1   	1 	2   7	OPAMP1 PARAMS: p_fp1 = {5k}
XOP2   	8 	9   3	OPAMP1 PARAMS: p_fp1 = {5k}
XOP3  	4 	5   10	OPAMP1 PARAMS: p_fp1 = {5k}
XOP4   	11 	12   6	OPAMP1 PARAMS: p_fp1 = {5k}

.END


* 					|OPAMP1 |	OPAMP2	|	OPAMP 3	|	OPAMP4	|
.SUBCKT OPAMP_ENCAP2	1	2 	7  	8	9	3	4	5	10	11	12	6

XOP1   	1 	2   7	OPAMP2 PARAMS: p_fp1 = {5k}
XOP2   	8 	9   3	OPAMP2 PARAMS: p_fp1 = {5k}
XOP3  	4 	5   10	OPAMP2 PARAMS: p_fp1 = {5k}
XOP4   	11 	12   6	OPAMP2 PARAMS: p_fp1 = {5k}

.END


.SUBCKT 1000	1	2 	7  	8	9	3	4	5	10	11	12	6
XOPAMP_ENCAP 	1	2 	7  	8	9	3	4	5	10	11	12	6 OPAMP_ENCAP1
.ENDS 1000

.SUBCKT 1001	1	2 	7  	8	9	3	4	5	10	11	12	6
XOPAMP_ENCAP 	1	2 	7  	8	9	3	4	5	10	11	12	6 OPAMP_ENCAP2
.ENDS 1000


*-----------------------------------------------------------------------------
*MEASUREMENTS
*-----------------------------------------------------------------------------
VS IN 0 SIN(0 1V 5K)
* 				|   OPAMP1 				|	OPAMP2		    |	OPAMP 3			|			OPAMP4				|
XOPAMP_ENCAP 	0 	1	 OPAMP_OUT1 	0	2	OPAMP_OUT2	3	0	OPAMP_OUT3 	OPAMP_OUT3	OPAMP_OUT4 OPAMP_OUT4			{MODEL_OPAMP_ENCAP}


*OPAMP 1: INVERSOR
R1 		IN 	1				{p_R1}
R2 		1 	OPAMP_OUT1		{p_R2}

*OPAMP 2: Integrator
VRESET	4	0	PULSE(0V 5V 0 0.1US 0.1US 100US 110US)
R4		4	0				{p_R4}
R3		IN	2				{p_R3}
C1		2	OPAMP_OUT2		{p_C1}
S1		2 	OUT	4 	0 	SRES

*OPAMP 3: Non-inversor
R5 		IN 	3				{p_R5}
R6 		3 	OPAMP_OUT1		{p_R6}

*-----------------------------------------------------------------------------
* ANALYSIS
*-----------------------------------------------------------------------------
* .AC 	DEC 	10 	10 	10MEG
.STEP PARAM MODEL_OPAMP_ENCAP list 1000 1001
.TRAN 	1US  	1m
* [ltz] removed: .PROBE
.END
