OP_LIMITER1.CIR - OPAMP WITH ZENER LIMITING
*
VS	1	0	SIN(0V 0.5VPEAK 1KHZ)
*
* INVERTING AMPLIFIER
R1	1	2	10K
R2	2	4	10K
XOP1	0 2	4	OPAMP1
*
* ZENER LIMITER 
D1	2	3	D1N746
D2	4	3	D1N746
*
*
* ZENER DIODES
.model	D1N746	D(Is=5u Rs=14 Bv=2.81 Ibv=5u)
.model	D1N749	D(Is=1u Rs=11 Bv=3.82 Ibv=1u)
.model	D1N752	D(Is=0.5u Rs=6 Bv=5.20 Ibv=0.5u)
.model	D1N755	D(Is=0.05u Rs=3 Bv=7.11 Ibv=0.05u)
.model	D1N757	D(Is=0.05u Rs=5 Bv=8.67 Ibv=0.05u)
.model	D1N758	D(Is=0.05u Rs=9 Bv=9.49 Ibv=0.05u)
* DIODES
.model	D1N4148	D(Is=0.1p Rs=16 CJO=2p Tt=12n Bv=100 Ibv=0.1p)
*
*
* OPAMP MACRO MODEL, SINGLE-POLE 
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP1      1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
* DCGAIN =100K AND POLE1=1/(2*PI*RP1*CP1)=100HZ
* GBP = DCGAIN X POLE1 = 10MHZ
EGAIN	3 0	1 2	100K
RP1	3	4	1000
CP1	4	0	1.5915UF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 0	4 0	1
ROUT	5	6	10
.ENDS
*
*
* ANALYSIS
.TRAN 	10US  1000US
*
* VIEW RESULTS
.PRINT	TRAN 	V(4)
* [ltz] removed: .PROBE
.END
