OP_AOL_DC.CIR
* INPUT
VS	1	0	ac	1	PWL(0US 0V   0.01US 1V)
*
* NON-INVERTING AMP
R1	2	0	1K
R2	3	2	9k
XOP1	1 2     3       op_001
*
* IDEAL NON-INVERTING GAIN
EAMP1	5 0 1 0		10

*
* INVERTING AMP
R11	1	12	1K
R12	12	13	10k
XOP2	0 12  13    op_001
*
* IDEAL INVERTING GAIN
EAMP2	15 0 1 0		-10
*
*
* BASIC OP AMP MODEL
*                 In+ In- Vout
.SUBCKT op_001    1   2   3
RIN   1   2   1e12
* OPEN LOOP GAIN
EGAIN   3 0 1 2	200000
*
.ENDS
*
* ANALYSIS *************************************
.TRAN 	1us  100us
* [ltz] removed: .PROBE
.END
